US04973731
Preparation of 2-(3,5-Di-t-butylphenoxymethyl)-N-(tetrazol-5-yl)benzamide
A solution of 3.40 g (0.01 mole) of 2-(3,5-di-t-butylphenoxymethyl)benzoic acid and 1.03 g (0.01 mole) of 5-aminotetrazole in 30 ml of pyridine was treated with a dropwise addition of 2.36 g (0.02 mole) of thionyl chloride. The resulting solution was stirred for forty minutes before being diluted with 300 ml of 5% hydrochloric acid to give a gum which slowly crystallized. The solid was collected, rinsed with water and recrystallized from aqueous dimethylformamide to give 1.3 g of white solid 2-(3,5-di-t-butylphenoxymethyl)-N-(tetrazol-5-yl)benzamide, m.p. 251°-254° C.. Analysis: Calculated for C23H29N5O2 : %C, 67.8; %H, 7.2; %N, 17.2; Found: %C, 67.7; %H, 7.1; %N, 17.2.

reactant | 2-(3,5-di-t-butylphenoxymethyl)benzoic acid | 0.01 mole, 3.40 g | C(C)(C)(C)C=1C=C(OCC2=C(C(=O)O)C=CC=C2)C=C(C1)C(C)(C)C | C22H28O3
reactant | 5-aminotetrazole | 0.01 mole, 1.03 g | NC1=NN=NN1 | CH3N5
reactant | thionyl chloride | 0.02 mole, 2.36 g | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 300 ml | Cl | ClH
product | 2-(3,5-Di-t-butylphenoxymethyl)-N-(tetrazol-5-yl)benzamide | 1.3 g | C(C)(C)(C)C=1C=C(OCC2=C(C(=O)NC3=NN=NN3)C=CC=C2)C=C(C1)C(C)(C)C | C23H29N5O2
